US08455477B2
A flask was charged with EtOH (700 ml), tert-butyl 3-(2-ethoxy-2-oxoethylidene)pyrrolidine-1-carboxylate (246 g, 965 mmol) and Pd/C (40 g). Then the flask was charged with H2 (3 L). The resulting solution was stirred overnight. The reaction mixture was filtered and concentrated to afford tert-butyl 3-(2-ethoxy-2-oxoethyl)pyrrolidine-1-carboxylate as a colorless oil.

reactant | tert-butyl 3-(2-ethoxy-2-oxoethylidene)pyrrolidine-1-carboxylate | 965 mmol, 246 g | C(C)OC(C=C1CN(CC1)C(=O)OC(C)(C)C)=O | C13H21NO4
catalyst | Pd/C | 40 g | [Pd] | Pd
solvent | EtOH | 700 ml | CCO | C2H6O
product | tert-butyl 3-(2-ethoxy-2-oxoethyl)pyrrolidine-1-carboxylate | C(C)OC(CC1CN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
